US09328106B2
To a solution of 2-ethyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-one (120 mg, 0.45 mmol) in THF (3 mL) was added (R)-2-methylpropane-2-sulfinamide (70 mg, 0.58 mmol) followed by titanium(IV) ethoxide (0.30 mL, 1.12 mmol). The reaction mixture was heated at reflux for 4 hr then allowed to cool to room temperature. The crude solution was added dropwise to a solution of sodium borohydride (69 mg, 1.80 mmol) in THF (3 mL) at −60° C. The reaction mixture was warmed to 0° C., quenched with MeOH (3 mL) and brine (50 mL), and stirred at room temperature for 18 hr. The mixture was filtered through Celite® washing with EtOAc (200 mL). The aqueous layer was extracted with EtOAc (3×50 mL) and the combined organic layers were washed with brine (150 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-10% MeOH/DCM) gave N-(2-ethyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-yl)-2-methyl-propane-2-sulfinamide as a mixture of diastereomers (ratio 5:2) as a colourless solid (118 mg, 71% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.03 and 8.02 (2s, 1H), 5.60-5.51 (m, 1H), 4.08 and 4.06 (2s, 3H), 3.83-3.66 (m, 2H), 3.62-3.50 (m, 1H), 3.22 and 3.15 (d, J=6.2 and 4.0 Hz, 1H), 2.11-1.96 (m, 4H), 1.76 (s, 1H), 1.63-1.54 (m, 2H), 1.28-1.15 (m, 9H), 0.91 (td, J=7.4, 2.4 Hz, 3H).

reactant | 2-ethyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-one | 0.45 mmol, 120 mg | C(C)C1OC(CCC(C1)=O)C=1N(N=CC1[N+](=O)[O-])C | C12H17N3O4
reactant | (R)-2-methylpropane-2-sulfinamide | 0.58 mmol, 70 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | sodium borohydride | 1.80 mmol, 69 mg | [BH4-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | titanium(IV) ethoxide | 1.12 mmol, 0.30 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | N-(2-ethyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-yl)-2-methyl-propane-2-sulfinamide | C(C)C1OC(CCC(C1)NS(=O)C(C)(C)C)C=1N(N=CC1[N+](=O)[O-])C | C16H28N4O4S
